US07781598B2
Aqueous sodium hydroxide (1 M, 11.7 kg) was added to a solution of [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetic acid, ethyl ester (2.20 kg, 5.28 mol) in 1-propanol (8.2 kg) and the mixture heated to 68° C. After cooling to 40° C., the solution was filtered, the filter rinsed with water (1 kg) then methyl isobutyl ketone (17.8 kg) was added to the filtrate, which was re-heated to 80° C. Aqueous hydrochloric acid (1 M, 12.2 kg) was added over a period of 90 minutes then the mixture cooled to 19° C. The crystalline solid was collected by filtration, washed with water (2×4 kg), ethyl acetate (6 kg) then dried in a vacuum oven at 40° C. to provide [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetic acid as white crystals, 1.87 kg (91%).

reactant | sodium hydroxide | 1 M, 11.7 kg | [OH-].[Na+]
reactant | [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetic acid, ethyl ester | 5.28 mol, 2.20 kg | C(C)(=O)NC1=C2C(=C(N(C2=CC=C1)CC(=O)OCC)C)SC1=CC=C(C=C1)Cl | C21H21ClN2O3S
solvent | 1-propanol | 8.2 kg | C(CC)O | C3H8O
product | [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetic acid | C(C)(=O)NC1=C2C(=C(N(C2=CC=C1)CC(=O)O)C)SC1=CC=C(C=C1)Cl | C19H17ClN2O3S
